US09212155B2
Preparation of Compound AG [(R)-3-(4-Trifluoromethylphenyl)-butyramide]
Acetylacetonatobis(ethylene)rhodium(I) (0.3 mmol), (S)-(−)-2,2′-Bis(diphenyl-phosphino)-1,1′-binaphthalene (0.045 mmol), 4-(trifluoromethyl)phenylboronic acid (2 mmol), K2CO3 (0.5 mmol), and but-2-enoic acid amide (1 mmol) are added into a 25-mL round-bottomed flask containing a magnetic stirrer bar, a septum inlet, and a reflux condenser. The flask is flashed with argon and then charged with 1,4-dioxane (3 mL) and de-ionized H2O (0.5 mL). The reaction mixture is stirred for 16 hours at 100° C. The (R)-3-(4-trifluoromethylphenyl)butyramide is extracted with ethyl acetate, washed with brine, and dried over anhydrous magnesium sulfate. Chromatography over silica gel gives the desired product.

reactant | 4-(trifluoromethyl)phenylboronic acid | 2 mmol | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 0.5 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | but-2-enoic acid amide | 1 mmol | C(C=CC)(=O)N | C4H7NO
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Acetylacetonatobis(ethylene)rhodium(I) | 0.3 mmol | C/C(=C/C(=O)C)/O.C=C.C=C.[Rh]
solvent | H2O | 0.5 mL | O | H2O
product | (R)-3-(4-Trifluoromethylphenyl)-butyramide | FC(C1=CC=C(C=C1)[C@@H](CC(=O)N)C)(F)F | C11H12F3NO
